US08283442B2
To a solution of 2-(3,3-dimethyl-morpholin-4-yl)-ethanol (7.2 g, 45 mmol) and CBr4 (16.4 g, 49 mmol, 1.1 equiv.) in THF (150 mL) was added dropwise a solution of PPh3 (12.9 g, 49 mmol, 1.1 equiv.) in THF (75 mL). The resulting slurry was stirred at room temperature for 19 hours, at which time the slurry was diluted with hexanes and filtered. The filtrate was concentrated in vacuo and the resulting oil was diluted with CH2Cl2. The solution was then washed twice with NaHCO3 (aqueous, saturated) and brine. The aqueous layers were back-extracted with CH2Cl2 and the combined organic layers were dried over Na2SO4 and concentrated. The crude product was distilled (65° C., 0.5 torr) to provide 4-(2-Bromo-ethyl)-3,3-dimethyl-morpholine (5.4 g, 54%) as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 3.69 (t, 2H), 3.28 (s, 2H), 3.28 (t, 2H), 2.70 (t, 2H), 2.58 (t, 2H), 0.99 (s, 6H); LC/MS found 222.02 (M++H, C8H17BrNO requires 222.05).

reactant | 2-(3,3-dimethyl-morpholin-4-yl)-ethanol | 45 mmol, 7.2 g | CC1(N(CCOC1)CCO)C | C8H17NO2
reactant | CBr4 | 49 mmol, 16.4 g, 1.1 equiv. | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 49 mmol, 12.9 g, 1.1 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(2-Bromo-ethyl)-3,3-dimethyl-morpholine | 5.4 g, 54% | BrCCN1C(COCC1)(C)C | C8H16BrNO
